### PR TITLE
Added construction of M-types from Signatures/Containers

### PR DESCRIPTION
**Pull request by cmester0**

### CODE REVIEW

**Comment by cmester0** [comment]
Implementation of M-types as in the "Non-wellfounded trees in Homotopy Type Theory" paper.

**Comment by mortberg** [comment]
Great, thanks for this contribution! There are some whitespace issues:

```
Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/Coalg.agda.

Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/M.agda.

Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/bisim-examples.agda.

Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/bisim-stream.agda.

Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/helper.agda.

Whitespace violation detected in /home/travis/build/agda/cubical/Cubical/M-types/itree.agda.
```

One way to fix it is to open the files in emacs and running `M-x delete-trailing-whitespace` in each file.

Could you please also add the new files to `https://github.com/agda/cubical/blob/master/Cubical/Codata/Everything.agda` so that they get compiled when we run `make`.

There also seems to be some unsolved goals? Can you please fix them and remove all `--allow-unsolved-metas`.

**Comment by cmester0** [comment]
I still have some postulates, but no more unresolved metas, and the whitespace has been removed.

**Comment by mortberg** [comment]
> I still have some postulates, but no more unresolved metas, and the whitespace has been removed.

Thanks! I don't I want to merge before the postulates are gone. They all seem plausible to me. Can you please prove them?

**Comment by cmester0** [comment]
I am having problems with checking proofs using the definition of "shift" takes a lot of time (over an hour), any suggestions on why this is a problem? The definition of shift, can be checked fast, but when used it takes long time to check, which can be fixed, if postulating it even though I have most of the proof.

**Comment by Saizan** [comment]
I would try to build `shift` by defining and composing isos rather than turning them into equalities at every step.

Also, it's better to define something of type `Iso` by copatterns rather than using the `iso` constructor, as that will lead to smaller normal forms.

Which proof in particular are you struggling wrt the efficiency of `shift`?

**Comment by cmester0** [comment]
I have reduced half of the proof to use a singe iso, which i will convert to use copattern matching, but I am having problems with proving a part of
`α-iso : ∀ {ℓ} {S : Container {ℓ}} -> L (PX,Pπ S) ≡ P₀ {S = S} (M S) -- L^P ≡ PL`
so I have a postulate for now, which together with two isos give me the proof. But somehow this still gives me trouble when type checking the using the of definition in other proofs.

**Comment by cmester0** [comment]
I have used the implementation at "https://github.com/HoTT/M-types" as a guide, but I still have problems with the last part of the proof, which is par of the equality 9 in lemma 13 in the paper "Non-wellfounded trees in Homotopy Type Theory" by Benedikt Ahrens, Paolo Capriotti, and Régis Spadotti.

**Comment by mortberg** [comment]
Maybe all isos in the library should be defined using copatterns? Sounds
like an Issue to open if you think it's a good idea

**Comment by Saizan** [comment]
@mortberg In that case we might want to go with `no-eta-equality` too.

It's probably a good idea though I don't know how much of a difference it's going to make.

**Comment by cmester0** [comment]
I have converted the definition to compose Iso's instead of equalities, and defined the Iso's using copattern matching (though maybe unfolded a bit much), and that seems to have done the trick. Thanks for the help!

File: Cubical/M-types/M-type/Base.agda [hunk 1]
```diff
@@ -0,0 +1,229 @@
...
+snd (fun comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (a , b)) (suc n) i = a .snd n i , b .snd n i
+fst (fst (inv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso x)) n = (x .fst) (suc n) .fst
+snd (fst (inv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso x)) n i = (x .snd) (suc n) i .fst
+fst (snd (inv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso x)) n = (x .fst) (suc n) .snd
+snd (snd (inv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso x)) n i = (x .snd) (suc n) i .snd
+fst (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) 0 = lift tt
+fst (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) (suc n) = refl i
+snd (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) 0 = refl
+snd (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) (suc n) = c (suc n)
+leftInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso a = ΣPathP (refl , refl)
```
Comment (Saizan) [inline Cubical/M-types/M-type/Base.agda]: I guess this is what you mean by unfolded "a bit much"?

Did you try with just `fun`, `inv`, `leftInv` and `rightInv` as copatterns and the rest as lemmas? Was that still too slow?

Comment (cmester0) [reply Cubical/M-types/M-type/Base.agda]: In most cases it was enough, but I had to expand in one or two cases, so I just did it to be sure it would work. I will return it to a more readable form.

Comment (cmester0) [reply Cubical/M-types/M-type/Base.agda]: It now looks like this:

```
comp-α-iso-step-1-4-Iso-Sym-L-unique-iso : ∀ {ℓ} {S : Container {ℓ}} -> let (A , B) = S in Iso (Σ (Σ ((n : ℕ) → A) (λ a → (n : ℕ) → a (suc n) ≡ a n)) λ a → Σ ((n : ℕ) → B (a .fst n) → X (sequence S) n) λ u → (n : ℕ) → PathP (λ x → B (a .snd n x) → X (sequence S) n) (π (sequence S) ∘ u (suc n)) (u n))  (L (sequence S))
fun comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (a , b) = (λ { 0 → lift tt ; (suc n) → (a .fst n) , (b .fst n)}) , λ { 0 → refl {x = lift tt} ; (suc m) i → a .snd m i , b .snd m i }
inv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso x = ((λ n → (x .fst) (suc n) .fst) , λ n i → (x .snd) (suc n) i .fst) , (λ n → (x .fst) (suc n) .snd) , λ n i → (x .snd) (suc n) i .snd
fst (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) 0 = lift tt
fst (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) (suc n) = refl i
snd (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) 0 = refl
snd (rightInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso (b , c) i) (suc n) = c (suc n)
leftInv comp-α-iso-step-1-4-Iso-Sym-L-unique-iso a = ΣPathP (refl , refl) 
```

I needed to match on `0` and `(suc n)` as pattern/copattern to make `rightInv` type check.

**Comment by mortberg** [comment]
Is this ready to be merged now?

**Comment by mortberg** [comment]
Oh wait, there are still some postulates? Please ping me when you've got rid of them

**Comment by cmester0** [comment]
Yes I still have one or two postulates, that I am having a hard time proving. I will make sure to ping you, when/if I figure them out.

**Comment by cmester0** [comment]
I have encountered a similar type checking computation problem (at `M-types/Base.agda` α-iso-step-5-Iso), but this time I cannot just use Iso's, since it is element equivalence, and not type equivalence. Any recommendations? (I have made it abstract for now..). I tried postulating two parts of the proof (`PathP≡Path` and the rest), and this still did not help the type checker enough.

**Comment by Saizan** [comment]
@cmester0 can you try after pulling from the current master?

If you still have problems after that it would be great if you could point to some specific code that is slow to typecheck if the definition is not abstract. Even if that code has holes in it.

**Comment by cmester0** [comment]
This was after pulling the update. I will try and minimize the problem, and report it here.

**Comment by cmester0** [comment]
@Saizan : I can drastically reduce the time it takes to compute if I define `in-inverse-out` in `M/Properties.agda` as
```
in-inverse-out : ∀ {ℓ} {S : Container {ℓ}} -> (in-fun {S = S} ∘ inv (shift-iso {S = S})) ≡ idfun (M S)
in-inverse-out {S = S} i a = rightInv {A = P₀ (M S)} {B = M S} (shift-iso {S = S}) a i
``````
instead of what it is currently
```
in-inverse-out : ∀ {ℓ} {S : Container {ℓ}} -> (in-fun {S = S} ∘ out-fun {S = S}) ≡ idfun (M S)
in-inverse-out {S = S} i a = rightInv {A = P₀ (M S)} {B = M S} (shift-iso {S = S}) a i
```
where `out-fun` is defined as
```
out-fun : ∀ {ℓ} {S : Container {ℓ}} -> M S -> P₀ (M S)
out-fun {S = S} = inv (shift-iso {S = S})
```
Furthermore the problem is reversed (having to use `fun (shift-iso {S = S})` instead of `in-fun {S = S}`) for the definition in the other direction, that is as
```
out-inverse-in : ∀ {ℓ} {S : Container {ℓ}} -> (out-fun {S = S} ∘ fun (shift-iso {S = S})) ≡ idfun (P₀ (M S))
out-inverse-in {S = S} i a = leftInv {A = P₀ {S = S} (M S)} {B = M S} (shift-iso {S = S}) a i
```
instead of
```
out-inverse-in : ∀ {ℓ} {S : Container {ℓ}} -> (out-fun {S = S} ∘ in-fun {S = S}) ≡ idfun (P₀ (M S))
out-inverse-in {S = S} i a = leftInv {A = P₀ {S = S} (M S)} {B = M S} (shift-iso {S = S}) a i
```

**Comment by Saizan** [comment]
> @Saizan : I can drastically reduce the time it takes to compute if I define `in-inverse-out` in `M/Properties.agda` as

For the sake of reproducibility, can you also specify which are the terms you are computing (and do you mean C-c C-n by that, or something else?)

Also, how are you measuing the times?

**Comment by cmester0** [comment]
I am still looking at narrowing it down more, it seems like it still is a problem with pathToIso, and maybe some unification, but I am not sure.

The way I test is by running `time agda M-type/Properties.agda' and check how long time it takes, and it varies from 1-5 min to 30 min depending on what I make abstract. The problem seems to stem from ≡-rel-a-inj' in the `helper.agda` file.

**Comment by cmester0** [comment]
Type checking seems to take notably less time, when abstracting away `\ a -> pathToIso (cong F a)`. I think the problem occurs when trying to transport over something of the form `cong F a`, but I am sure, I have just encountered that pattern at the points when the type checking is slow.

**Comment by Saizan** [comment]
The complexity of computing `transport (cong F a)` depends entirely on what `F` is, so maybe your Fs are fairly big.

I guess I can compare by typechecking `Cubical.M-types.Everything` ? Or is there a single file that would show enough of a difference?

**Comment by Saizan** [comment]
I guess I should say it depends on what `(\ i -> F (a i))` is, the `a` might be significant as well.

**Comment by cmester0** [comment]
I see the problem wherever i use `≡-rel-a-inj-Iso` which is defined in the `helper.agda` file. The time complexity of checking `M-type/Properties.agda` and `Coalg/Properties.agda` are where I see the problem. The large terms (in helper.agda) are either `≡-to-embedding` defined as
```
(isEquiv→isEmbedding (equivIsEquiv (isoToEquiv isom))) 
``` 
or `≡-rel-a-inj'` which is 
``` 
≡-rel-a-inj' : ∀ {ℓ} {A B C : Set ℓ} (a : A -> B) (e : isEmbedding a) → ∀ {f g : C -> A} -> ∀ x → ((a (f x) ≡ a (g x)) ≡ (f x ≡ g x))
≡-rel-a-inj' a e {f = f} {g} x = sym (ua (cong a , e (f x) (g x))) 
``` 
it might also just be because it actually gets to compute the entire term, when there are no abstracts.

**Comment by cmester0** [comment]
The term i abstract away is of the form:
``` pathToIso (cong (λ k → ∀ x → k x) (funext p)) ```
So I would not think that the complexity of `F` is the problem, but I might be wrong.

**Comment by Saizan** [comment]
No, it's the concrete `p` where this lemma is used that causes problems, I would expect.

And indeed making `≡-to-embedding` abstract also speeds up typechecking, even without making `pathCongFunExt` abstract.

**Comment by cmester0** [comment]
Is there a way to construct a the following naturality condition, given some isomorphism
```
naturality-1 : ∀ {ℓ} {A B : Set ℓ} (p : Iso A B) (x : A) → cong (fun p) (leftInv p x) ≡ rightInv p (fun p x)
```
This is the last postulate, then I should be done with the base formalization for M-types, then I can move the rest into another pull request.

**Comment by m-yac** [comment]
> Is there a way to construct a the following naturality condition, given some isomorphism
> 
> ```
> naturality-1 : ∀ {ℓ} {A B : Set ℓ} (p : Iso A B) (x : A) → cong (fun p) (leftInv p x) ≡ rightInv p (fun p x)
> ```

From my experience you have to "adjointify" the equivalence to get this equality, which involves modifying `rightInv`. See [`iso→HAEquiv` in `Foundations.Equiv.HalfAdjoint`](https://github.com/agda/cubical/blob/master/Cubical/Foundations/Equiv/HalfAdjoint.agda#L71).

I don't know of any way around doing this, aside from just working with `HAEquiv`s instead of `Iso`'s from the start.

File: Cubical/M-types/helper.agda [hunk 2]
```diff
@@ -0,0 +1,317 @@
...
+open import Cubical.Foundations.Univalence
+open import Cubical.Foundations.Isomorphism
+open import Cubical.Foundations.Function
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.GroupoidLaws
+open import Cubical.Foundations.Path
+open import Cubical.Foundations.Embedding
+open import Cubical.Foundations.FunExtEquiv
+
+module Cubical.M-types.helper where
```
Comment (m-yac) [inline Cubical/M-types/helper.agda:22]: This file has lots great lemmas, I would love to see most of them upstreamed. @mortberg what do you think –perhaps the sigma lemmas could be moved to `Sigma.Properties` and the inj lemmas to `Functions.Embedding`?  Things like `diagonal-unit`, `funExtIso` have obvious homes.

File: Cubical/M-types/helper.agda [hunk 3]
```diff
@@ -0,0 +1,317 @@
...
+  → (PathP (λ i → isom i → Set _) Y Y')
+  ----------
+  → (Σ X Y)
+  ≡ (Σ X' Y')
+Σ-ap'  {ℓ} {X = X} {X'} {Y} {Y'} isom isom' = cong₂ (λ (a : Set ℓ) (b : a → Set ℓ) → Σ a λ x → b x) isom isom'
+
+---
+
+identity-x : ∀ {ℓ} {A B : Set ℓ} (k : A -> A) -> k ≡ idfun A -> ∀ (x : A) -> k x ≡ x
+identity-x {A = A} k = funExt⁻
```
Comment (m-yac) [inline Cubical/M-types/helper.agda:168]: Looks like this isn't used anywhere.

File: Cubical/M-types/helper.agda [hunk 4]
```diff
@@ -0,0 +1,317 @@
...
+transport-iso :
+  ∀ {ℓ} {X Y : Set ℓ}
+  → (isom : Iso X Y)
+  → transport (isoToPath isom) ≡ fun isom
+transport-iso isom = funExt (transportRefl ∘ fun isom)
+
+≡-to-embedding : ∀ {ℓ} {A B C : Set ℓ}
+  → (isom : Iso A B)
+  -------------------------------
+  → isEmbedding (fun isom)
```
Comment (m-yac) [inline Cubical/M-types/helper.agda:205]: Shouldn't this be `Iso-to-embedding`?

File: Cubical/M-types/helper.agda [hunk 5]
```diff
@@ -0,0 +1,317 @@
...
+≡-to-embedding {A = A} {B} {C} isom = (isEquiv→isEmbedding (equivIsEquiv (isoToEquiv isom)))
+
+funExtIso : ∀ {ℓ ℓ₁} {A : Type ℓ} {B : A → Type ℓ₁} {f g : (x : A) → B x} → Iso (∀ x → f x ≡ g x) (f ≡ g)
+funExtIso = iso funExt funExt⁻ refl-fun refl-fun
+
+≡-rel-a-inj' : ∀ {ℓ} {A B C : Set ℓ} (a : A -> B) (e : isEmbedding a) → ∀ {f g : C -> A} -> ∀ x → ((a (f x) ≡ a (g x)) ≡ (f x ≡ g x))
```
Comment (m-yac) [inline Cubical/M-types/helper.agda:211]: What does `≡-rel` mean in this context? It's used in a lot of the lemmas in the rest of this file.

File: Cubical/M-types/helper.agda [hunk 6]
```diff
@@ -0,0 +1,317 @@
...
+
+module Cubical.M-types.helper where
+
+module helper where
+
+refl-fun : ∀ {ℓ} {A : Set ℓ} (x : A) → x ≡ x
+refl-fun x = refl {x = x}
+
+----------------
+-- Iso helper --
```
Comment (m-yac) [inline Cubical/M-types/helper.agda:30]: All but `funExt-iso`  in this section should definitely be in `Foundations.Isomorphism`, though possibly modulo renaming to be consistent with `Foundations.Equiv` (e.g. `sym-iso` -> `invIso`). `funExt-iso` should probably also be in `Functions.FunExtEquiv`?

File: Cubical/M-types/helper.agda (hunk 2 above)
Comment (cmester0) [reply Cubical/M-types/helper.agda:22]: If will try and clean up the pull request, when I have completed the last postulate. I would also like to figure a way of not having the abstract block, but I am not sure that is possible/easy.

File: Cubical/M-types/helper.agda (hunk 5 above)
Comment (cmester0) [reply Cubical/M-types/helper.agda:211]: I don't think the names are very good currently, I wrote `≡-rel` to mean some equivalence relation.

File: Cubical/M-types/helper.agda (hunk 6 above)
Comment (cmester0) [reply Cubical/M-types/helper.agda:30]: I will try and rename the theorem to match the naming in the files :) , and see where they will fit in. I will have a look at this tomorrow.

File: Cubical/M-types/helper.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/M-types/helper.agda:24]: Yeah, all general results should definitely be upstreamed

**Comment by cmester0** [comment]
Okay I have now cleared all the postulates for the definition of M-types, should I clean up the pull request, and put the construction of coalgebras in another pull request?

**Comment by cmester0** [comment]
@Saizan  @mortberg The pull request should be ready for merging now, there is still an abstract, but I am not sure, we can get around that. I hope, I found a correct place for the proofs, but please let me know if I should change anything.

File: Cubical/Data/Sigma/Properties.agda [hunk 7]
```diff
@@ -193,3 +196,99 @@ PiΣ = isoToEquiv (iso (λ f → fst ∘ f , snd ∘ f)
 
 swapΣEquiv : ∀ {ℓ'} (A : Type ℓ) (B : Type ℓ') → A × B ≃ B × A
 swapΣEquiv A B = isoToEquiv (iso (λ x → x .snd , x .fst) (λ z → z .snd , z .fst) (\ _ → refl) (\ _ → refl))
+
+Σ-split-iso : ∀ {ℓ} {A : Set ℓ} {B : A → Set ℓ} {a a' : A} {b : B a} {b' : B a'} → Iso (Σ (a ≡ a') (λ q → PathP (λ i → B (q i)) b b')) ((a , b) ≡ (a' , b'))
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:200]: Please state this Iso above https://github.com/agda/cubical/blob/master/Cubical/Data/Sigma/Properties.agda#L44 and use it in the proof of Σ≡

I think we should get better at stating the Iso, Equiv and Path versions of things

File: Cubical/Data/Sigma/Properties.agda [hunk 8]
```diff
@@ -193,3 +196,99 @@ PiΣ = isoToEquiv (iso (λ f → fst ∘ f , snd ∘ f)
...
+Iso.fun (Σ-split-iso) = ΣPathP
+Iso.inv (Σ-split-iso) eq = (λ i → fst (eq i)) , (λ i → snd (eq i))
+Iso.rightInv (Σ-split-iso) x = refl {x = x}
+Iso.leftInv (Σ-split-iso) x = refl {x = x}
+
+Σ-split : ∀ {ℓ} {A : Set ℓ} {B : A → Set ℓ} {a a' : A} {b : B a} {b' : B a'} → (Σ (a ≡ a') (λ q → PathP (λ i → B (q i)) b b')) ≡ ((a , b) ≡ (a' , b'))
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:206]: This should be named `Σ≡` and the current version of `Σ≡` should be `Σ≃`

File: Cubical/Data/Sigma/Properties.agda [hunk 9]
```diff
@@ -193,3 +196,99 @@ PiΣ = isoToEquiv (iso (λ f → fst ∘ f , snd ∘ f)
...
+Σ-split = ua Σ≡
+
+Σ-split-iso' : ∀ {ℓ} {A B : Set ℓ} {a a' : A} {b' b : B} → (Σ (a ≡ a') (λ q → b ≡ b')) ≡ ((a , b) ≡ (a' , b'))
+Σ-split-iso' = ua Σ≡
+
+Σ-ap-iso₂ : ∀ {i j} {X : Set i}
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:212]: Why use i j for levels and not \ell?

Comment (mortberg) [reply Cubical/Data/Sigma/Properties.agda:212]: The same applies to the rest of the file. i and j are usually used for dimension variables

File: Cubical/Data/Sigma/Properties.agda [hunk 10]
```diff
@@ -193,3 +196,99 @@ PiΣ = isoToEquiv (iso (λ f → fst ∘ f , snd ∘ f)
...
+          → {Y Y' : X → Set j}
+          → ((x : X) → Iso (Y x) (Y' x))
+          → Iso (Σ X Y)
+                 (Σ X Y')
+Iso.fun (Σ-ap-iso₂ {X = X} {Y} {Y'} isom) (x , y) = x , Iso.fun (isom x) y
+Iso.inv (Σ-ap-iso₂ {X = X} {Y} {Y'} isom) (x , y') = x , Iso.inv (isom x) y'
+Iso.rightInv (Σ-ap-iso₂ {X = X} {Y} {Y'} isom) (x , y) = ΣPathP (refl , Iso.rightInv (isom x) y)
+Iso.leftInv (Σ-ap-iso₂ {X = X} {Y} {Y'} isom) (x , y') = ΣPathP (refl , Iso.leftInv (isom x) y')
+
+Σ-ap₂ : ∀ {i j} {X : Set i}
```
Comment (mortberg) [inline Cubical/Data/Sigma/Properties.agda:222]: Why does the 2 versions come before the 1 versions?

File: Cubical/Foundations/Equiv/HalfAdjoint.agda [hunk 11]
```diff
@@ -88,6 +89,25 @@ iso→HAEquiv {A = A} {B = B} (iso f g ε η) = f , (record { g = g ; sec = η ;
                                ; (j = i1) → ε (f a) k})
                       (cong (cong f) (sym (Hfa≡fHa (λ x → g (f x)) η a)) i j)
 
+-- Theorem 4.2.3. of HoTT book (similar to iso→HAEquiv)
```
Comment (mortberg) [inline Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: What is the difference to `iso→HAEquiv`? Is it just that this one is written using copatterns? The other one should definitely be written using copatterns as well

File: Cubical/Foundations/Equiv/HalfAdjoint.agda [hunk 12]
```diff
@@ -143,3 +163,45 @@ congEquiv {A = A} {B} {x} {y} e = isoToEquiv (iso intro elim intro-elim elim-int
                      ; (j = i0) → secEq e x (i ∨ k)
                      ; (j = i1) → secEq e y (i ∨ k) })
             (secEq e (p j) i)
+
+
+coherent : ∀ {ℓ} {A B : Set ℓ} (isom : Iso A B) → Set ℓ
+coherent (iso f g H K) = ∀ x → cong f (K x) ≡ H (f x)
+
+vogt : ∀ {ℓ} {X Y : Set ℓ} → (isom : Iso X Y) → Σ ((y : Y) → Iso.fun isom (Iso.inv isom y) ≡ y) λ iso' → coherent (iso (Iso.fun isom) (Iso.inv isom) iso' (Iso.leftInv isom))
```
Comment (mortberg) [inline Cubical/Foundations/Equiv/HalfAdjoint.agda:171]: vogt?

File: Cubical/Foundations/Isomorphism.agda [hunk 13]
```diff
@@ -105,3 +105,33 @@ compIso (iso fun inv rightInv leftInv) (iso fun₁ inv₁ rightInv₁ leftInv₁
   = cong fun₁ (rightInv (inv₁ b)) ∙ (rightInv₁ b)
 compIso (iso fun inv rightInv leftInv) (iso fun₁ inv₁ rightInv₁ leftInv₁) .Iso.leftInv a
   = cong inv (leftInv₁ (fun a) ) ∙ leftInv a
+
+refl-iso : ∀ {ℓ} {X : Set ℓ} → Iso X X
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda:109]: idiso?

File: Cubical/Functions/FunExtEquiv.agda [hunk 14]
```diff
@@ -31,6 +31,8 @@ module _ {A : Type ℓ} {B : A → Type ℓ₁} {f g : (x : A) → B x} where
   funExtPath : (∀ x → f x ≡ g x) ≡ (f ≡ g)
   funExtPath = ua funExtEquiv
 
+funExtIso : ∀ {ℓ ℓ₁} {A : Type ℓ} {B : A → Type ℓ₁} {f g : (x : A) → B x} → Iso (∀ x → f x ≡ g x) (f ≡ g)
```
Comment (mortberg) [inline Cubical/Functions/FunExtEquiv.agda:34]: Why reprove funExt-iso here? We should only have one of them and I have no strong opinions about which

**Comment by cmester0** [comment]
Oh, I might have forgotten to re-add it after moving the around.

File: Cubical/Data/Sigma/Properties.agda (hunk 9 above)
Comment (cmester0) [reply Cubical/Data/Sigma/Properties.agda:212]: Oh, I sometimes run into the problem that the UTF-8 part of agda mode in emacs does not work, so i have some places where this is an issue. I will fix it asap.

File: Cubical/Data/Sigma/Properties.agda (hunk 7 above)
Comment (cmester0) [reply Cubical/Data/Sigma/Properties.agda:200]: Should I state versions for both Iso, Equiv and Path for the things I add? Currently I only have Iso and Path.

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (cmester0) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: It is not just the copatterns, this version computes in the proof of `vogt` later in the file, I don't know why `hcomp` does not compute though, since they should be similar if not equal.

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 12 above)
Comment (cmester0) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:171]: Vogt's lemma, I took inspiration from the proof at:
https://github.com/HoTT/M-types/blob/beebe176981953ab48f37de5eb74557cfc5402f4/function/isomorphism/coherent.agda

File: Cubical/Functions/FunExtEquiv.agda (hunk 14 above)
Comment (cmester0) [reply Cubical/Functions/FunExtEquiv.agda:34]: It might fit in better here, since this is where the rest of the `funExt` properties are stated. I will remove it from the Isomorphism file.

**Comment by Saizan** [comment]
Btw before we merge this we should discuss the naming a little bit as we already have `Cubical.Codata.M`.

**Comment by cmester0** [comment]
I agree, I am not sure that `M-type` is good, but it was the first thing I came up with, when I encountered the naming conflict.

**Comment by mortberg** [comment]
I'm very busy because it's the end of the semester and I don't have time to carefully review a big PR like this right now. But I'll try to take a look later next week if I have time. Some quick comments:

- Can you please move module declaration above the imports in the top of the files? Agda doesn't care, but all other files in the library are organized like this so it would be good to have these files look like that as well.

- Can you add a reference to "Non-wellfounded trees in Homotopy Type Theory" somewhere? I guess the various comments to numbered lemmas are referring to that paper? If so then you should have an exact reference to version you're using (arxiv or published?)

- I think lemmas like "lemma10-Iso" should either be private or be put in where statements if they are only used once. Otherwise it's difficult to browse the code and see which results are main ones and which are just technical helper lemmas.

I will go through all the code and carefully comment once I have some more time on my hands. Thanks a lot for the contribution, it should be fun to try some concrete examples at some point.

File: Cubical/Codata/M-types/stream.agda [hunk 15]
```diff
@@ -0,0 +1,30 @@
...
+stream A = M-type (stream-S A)
+
+cons : ∀ {A} -> A -> stream A -> stream A
+cons x xs = in-fun (x , λ { tt -> xs } )
+
+hd : ∀ {A} -> stream A -> A
+hd {A} S = out-fun S .fst
+
+tl : ∀ {A} -> stream A -> stream A
+tl {A} S = out-fun S .snd tt
```
Comment (mortberg) [inline Cubical/Codata/M-types/stream.agda:30]: How about proving the equivalence of this definition of streams with https://github.com/agda/cubical/blob/master/Cubical/Codata/Stream/Base.agda ?

File: Cubical/Codata/M.agda [hunk 16]
```diff
@@ -32,27 +32,30 @@ module Helpers where
...
 
 
-⟦_⟧ : ∀ {X : Type₀} → IxCont X → (X → Type₀) → (X → Type₀)
-⟦ (S , P) ⟧ X x = Σ (S x) \ s → ∀ y → P x s y → X y
+⟦_⟧ : ∀ {ℓ} {X : Type ℓ} → IxCont X → (X → Type ℓ) → (X → Type ℓ)
+⟦ (S , P) ⟧ X x = Σ (S x) λ s → ∀ y → P x s y → X y
 
 
-record M {X : Type₀} (C : IxCont X) (x : X) : Type₀ where
+record M {ℓ} {X : Type ℓ} (C : IxCont X) (x : X) : Type ℓ where -- Type₀
```
Comment (mortberg) [inline Cubical/Codata/M.agda:43]: How hard is it to prove an equivalence with your M-type and this one?

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: That seems strange indeed.. I don't think we should have two versions of the same result

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 12 above)
Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:171]: Cool! Can you please add a reference for this name

File: Cubical/Foundations/Isomorphism.agda [hunk 17]
```diff
@@ -105,3 +105,26 @@ compIso (iso fun inv rightInv leftInv) (iso fun₁ inv₁ rightInv₁ leftInv₁
...
   = cong inv (leftInv₁ (fun a) ) ∙ leftInv a
+
+idIso : ∀ {ℓ} {X : Set ℓ} → Iso X X
+Iso.fun (idIso {X = X}) = idfun X
+Iso.inv (idIso {X = X}) = idfun X
+Iso.rightInv (idIso {X = X}) x = refl {x = x}
+Iso.leftInv (idIso {X = X}) x = refl {x = x}
+
+-- Helpful notation
+_Iso⟨_⟩_ : ∀ {ℓ ℓ' ℓ''} {B : Set ℓ'} {C : Set ℓ''} (X : Set ℓ) → Iso X B → Iso B C → Iso X C
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda:116]: I think shift-iso would look nicer with this notation. (unless you find a direct proof that is)

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: Btw, what do you mean with "does not compute"?

File: Cubical/Functions/Embedding.agda [hunk 18]
```diff
@@ -132,3 +133,20 @@ isEquiv→hasPropFibers e b = isContr→isProp (equiv-proof e b)
 
 isEquiv→isEmbedding : isEquiv f → isEmbedding f
 isEquiv→isEmbedding e = hasPropFibers→isEmbedding (isEquiv→hasPropFibers e)
+
+abstract
```
Comment (mortberg) [inline Cubical/Functions/Embedding.agda:137]: Why is this abstract?

File: Cubical/Codata/M-types/Container.agda [hunk 19]
```diff
@@ -0,0 +1,83 @@
...
+
+-------------------------------------
+-- Container and Container Functor --
+-------------------------------------
+
+Container : ∀ {ℓ} -> Set (ℓ-suc ℓ)
+Container {ℓ} = Σ (Set ℓ) (λ A -> A -> Set ℓ)
+
+P₀ : ∀ {ℓ} {S : Container {ℓ}} -> Set ℓ -> Set ℓ
+P₀ {S = S} X  = Σ (S .fst) λ x → (S .snd x) -> X
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Container.agda:31]: The object and morphism part of a functor named P.

File: Cubical/Functions/Embedding.agda (hunk 18 above)
Comment (cmester0) [reply Cubical/Functions/Embedding.agda:137]: There is some complexity explosion when trying to type check shift, they also note this in the paper I used as a guide for the implementation, so an abstract is needed. I tried to push the abstract as far down as I could, so the definition would compute for somethings, therefore this definition ended up as an abstract. I will see if I think of a better solution.

File: Cubical/Codata/M-types/Coalg/Base.agda [hunk 20]
```diff
@@ -0,0 +1,45 @@
...
+-- Definition of a Coalgebra --
+-------------------------------
+
+Coalg₀ : ∀ {ℓ} {S : Container {ℓ}} -> Set (ℓ-suc ℓ)
+Coalg₀ {ℓ} {S = S} = Σ (Set ℓ) λ C → C → P₀ {S = S} C
+
+Coalg₁ : ∀ {ℓ} {S : Container {ℓ}} -> Coalg₀ {S = S} -> Coalg₀ {S = S} -> Set ℓ
+Coalg₁ {S = S} (C , γ) (D , δ) = Σ (C → D) λ f → δ ∘ f ≡ (P₁ f) ∘ γ
+
+-- Coalgebra morphism notation
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Coalg/Base.agda:31]: I have made a formalization using the coalgebra definitions, but I thought I would put that in another pull request. I will remove `Coalg_1` from here for now.

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (cmester0) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: By compute I mean that hcomp reduces to a simple term, so that I can do reflexivity or a simple rewrite.

File: Cubical/Foundations/Isomorphism.agda (hunk 17 above)
Comment (cmester0) [reply Cubical/Foundations/Isomorphism.agda:116]: Should I cange `_Iso⟨_⟩_` to `_≃⟨_⟩_` ?

Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda:116]: We already use that for equivalences, so I think this is good

File: Cubical/Functions/Embedding.agda (hunk 18 above)
Comment (mortberg) [reply Cubical/Functions/Embedding.agda:137]: Aha, I think the inefficiency will go away if you find a more direct proof of shift-iso. Things tend to get very inefficient if you convert back and forth between iso/equiv/path

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: Ok, so the problem is that if you use the other proof then  unfolding it leads to something that doesn't let you easily prove `vogt`?

File: Cubical/Codata/M-types/stream.agda (hunk 15 above)
Comment (cmester0) [reply Cubical/Codata/M-types/stream.agda:30]: Yes, I almost have a proof of this in my local development, but it is not complete yet, there are some issues with termination. Should I add it to the pull request? or make a seperate pull request for it?

File: Cubical/Codata/M-types/helper.agda [hunk 21]
```diff
@@ -0,0 +1,149 @@
...
+  → ∀ {x y : B}
+  → ((inv isom) x ≡ (inv isom) y) ≡ (x ≡ y)
+iso→inv-Injection-Path-x isom =
+  isoToPath (iso→inv-Injection-Iso-x isom)
+
+-------------------------
+-- Unit / × properties --
+-------------------------
+
+diagonal-unit : Unit ≡ Unit × Unit
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/helper.agda:148]: Oh, I used it with some stream examples, I have in my local development. Should I remove it from the pull request?

File: Cubical/Codata/M-types/helper.agda [hunk 22]
```diff
@@ -0,0 +1,149 @@
...
+open import Cubical.Functions.Embedding
+open import Cubical.Functions.FunExtEquiv
+
+open Iso
+
+refl-fun : ∀ {ℓ} {A : Set ℓ} (x : A) → x ≡ x
+refl-fun x = refl {x = x}
+
+-- Right
+extent-r : ∀ {ℓ} {A B C : Set ℓ} {a b : A -> B} (f : C -> A) -> a ≡ b -> a ∘ f ≡ b ∘ f
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/helper.agda:31]: It might not be worth naming, I just had some conceptual issues of how to use cong and other things in the library, when stating the development.

File: Cubical/Codata/M-types/Container.agda [hunk 23]
```diff
@@ -0,0 +1,83 @@
...
+
+record Chain {ℓ} : Set (ℓ-suc ℓ) where
+  constructor _,,_
+  field
+    X : ℕ -> Set ℓ
+    π : {n : ℕ} -> X (suc n) -> X n
+
+open Chain public
+
+L : ∀ {ℓ} -> Chain {ℓ} → Set ℓ
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Container.agda:48]: Yes it is the limit, I will rename it to `limit-of-chain`

File: Cubical/Codata/M-types/stream.agda (hunk 15 above)
Comment (mortberg) [reply Cubical/Codata/M-types/stream.agda:30]: Please make another PR! I really prefer many small self-contained PRs as it makes the reviewing a lot easier

File: Cubical/Codata/M-types/Container.agda [hunk 24]
```diff
@@ -0,0 +1,83 @@
...
+L (x ,, pi) = Σ ((n : ℕ) → x n) λ x → (n : ℕ) → pi {n = n} (x (suc n)) ≡ x n
+
+shift-chain : ∀ {ℓ} -> Chain {ℓ} -> Chain {ℓ}
+shift-chain = λ X,π -> ((λ x → X X,π (suc x)) ,, λ {n} → π X,π {suc n})
+
+! : ∀ {ℓ} {A : Set ℓ} (x : A) -> Lift {ℓ-zero} {ℓ} Unit
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Container.agda:54]: Oh, yes I should definitely inline this. I called it "!" since it was the unique function into Unit.

File: Cubical/Codata/M-types/helper.agda (hunk 21 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/helper.agda:148]: You can move it to Data.Unit.Properties

File: Cubical/Codata/M-types/Container.agda (hunk 23 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/Container.agda:48]: Perfect!

File: Cubical/Codata/M-types/Container.agda (hunk 24 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/Container.agda:54]: Ah, the name makes perfect sense! :-)

File: Cubical/Foundations/Equiv/HalfAdjoint.agda (hunk 11 above)
Comment (cmester0) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: Yes, exactly.

Comment (mortberg) [reply Cubical/Foundations/Equiv/HalfAdjoint.agda:92]: Ok, let's keep both version for now and I'll take a look at it when this PR is merged. Please add a comment above `iso→HAEquiv'` explaining why it is there so that we don't forget

File: Cubical/Codata/M-types/Container.agda [hunk 25]
```diff
@@ -0,0 +1,83 @@
...
+open import Cubical.Data.Sum
+
+open import Cubical.Codata.M-types.helper
+
+-------------------------------------
+-- Container and Container Functor --
+-------------------------------------
+
+Container : ∀ {ℓ} -> Set (ℓ-suc ℓ)
+Container {ℓ} = Σ (Set ℓ) (λ A -> A -> Set ℓ)
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Container.agda]: Yes, should I define `Container` using `TypeWithStr`, or should I replace `Container` all together? I think the name `Container` helps clarify what is going on.

File: Cubical/Codata/M-types/helper.agda [hunk 26]
```diff
@@ -0,0 +1,149 @@
...
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.GroupoidLaws
+open import Cubical.Foundations.Path
+
+open import Cubical.Functions.Embedding
+open import Cubical.Functions.FunExtEquiv
+
+open Iso
+
+refl-fun : ∀ {ℓ} {A : Set ℓ} (x : A) → x ≡ x
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/helper.agda]: I used it for `Iso`'s so I would not have to write `(λ x → refl)` but the difference is small, so I will remove it for clearity.

File: Cubical/Codata/M-types/itree.agda [hunk 27]
```diff
@@ -0,0 +1,75 @@
+{-# OPTIONS --cubical --guardedness --safe #-}
```
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/itree.agda:1]: I have some more in depth use of the examples. I will make a pull request for it, when this is done :) .

File: Cubical/Codata/M.agda (hunk 16 above)
Comment (cmester0) [reply Cubical/Codata/M.agda:43]: There are some issues with the termination checker, and how to define functions over the M-types defined in this PR, but it should hopefully not be too hard, I have an attempt at it in my local work.

File: Cubical/Codata/M-types/helper.agda (hunk 22 above)
[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/helper.agda]: I have removed it, I was not using it any more, so it seems it is not that useful :) .

File: Cubical/Codata/M-types/Container.agda (hunk 25 above)
[the remark this answers is not in the document]
Comment (Saizan) [reply Cubical/Codata/M-types/Container.agda]: You should keep `Container`, that's how the input to `M` types has been called for a while, maybe you could also mention the name `polynomial functor` in the comments:

https://ncatlab.org/nlab/show/polynomial+functor

[the remark this answers is not in the document]
Comment (cmester0) [reply Cubical/Codata/M-types/Container.agda]: Yes, I am also not sure the names P0 and P1 are descriptive enough..

File: Cubical/Functions/Embedding.agda (hunk 18 above)
Comment (cmester0) [reply Cubical/Functions/Embedding.agda]: I have removed the abstract here, and moved it to where the definition is used, in `shift-iso`. Hopefully I can find a better definition of `shift-iso`.

Comment (mortberg) [reply Cubical/Functions/Embedding.agda]: Sounds good. I don't think you need a better definition of shift-iso in this PR, but it would be good to leave a comment about it there.

File: Cubical/Codata/M-types/Container.agda (hunk 25 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/Container.agda]: It seems reasonable to define Container using TypeWithStr and have more comments. I'm also not a huge fan of P0 and P1, but I can't think of better names right now. So if you keep them please add a comment explaining the names

File: Cubical/Codata/M-types/itree.agda (hunk 27 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/itree.agda:1]: Cool!

File: Cubical/Codata/M.agda (hunk 16 above)
Comment (mortberg) [reply Cubical/Codata/M.agda:43]: Great! Sounds like a good future PR

File: Cubical/Codata/M-types/helper.agda (hunk 22 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Codata/M-types/helper.agda]: Great!

**Comment by mortberg** [comment]
Puh, apart from

- A comment explaining why we have `iso→HAEquiv'`
- A TODO before `shift-iso` about optimizing the proof
- Adding some comments and maybe renaming P0/P1 in Container

I think this PR is ready to be merged

**Comment by cmester0** [comment]
There was also the question of what to name the M-types, since the name `M` is already taken. Otherwise the rest should be updated now :) .

**Comment by Saizan** [comment]
I think `Cubical.Codata.M.Encoding` or `Cubical.Codata.M.AsLimit` might be a good place for this construction, what do you think?

**Comment by cmester0** [comment]
I think `Cubical.Codata.M.AsLimit` would be a good place for the construction. Should I rename the type to `M-AsLimit` or `M`, or should I keep it as `M-type` ?

**Comment by Saizan** [comment]
I think `M` for the type makes most sense, `W types` are called `W` in most sources too.

**Comment by cmester0** [comment]
Running `make test` complains about two occurrences of the name `M` though, that was why i changed it in the first place :) .

**Comment by Saizan** [comment]
Oh, that's probably just that we shouldn't `open ... public` in `Cubical.Codata.Everything`. 

Is this fixed already in master maybe? I saw some PR about autogenerating the .Everything modules.

**Comment by cmester0** [comment]
I agree
